US05760050
3-(3,4-Dichloro-benzyl)-8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
Prepared by the procedure of Example 3 from 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one and 3,4-dichlorobenzaldehyde. Yield 65%, mp 144°-146° C.

reactant | 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | COC=1C=CC2=C(C1)OC(C=1CNCCC12)=O | C13H13NO3
reactant | 3,4-dichlorobenzaldehyde | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
product | 3-(3,4-Dichloro-benzyl)-8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | Yield 65% | ClC=1C=C(CN2CC3=C(CC2)C=2C=CC(=CC2OC3=O)OC)C=CC1Cl | C20H17Cl2NO3
